US08278457B2
2-Bromo-5-fluorobenzonitrile (6.00 g, 30.0 mmol) and triisopropyl borate (8.28 mL, 36.0 mmol) were dissolved in a mixture of toluene (48 mL) and tetrahydrofuran (12 mL), and the solution was cooled in a dry ice/acetone bath. A solution of n-butyllithium in hexanes (2.5M, 14.4 mL, 36.0 mmol) was added drop-wise over 1 hour, and the reaction was then allowed to warm to room temperature with stirring over 18 hours. The mixture was cooled in an ice bath and treated with a 2N aqueous hydrochloric acid solution until the pH reached 1, then allowed to warm to room temperature, at which time the layers were separated, and the aqueous layer was extracted twice with ethyl acetate. The combined organic layers were washed twice with water, once with saturated aqueous sodium chloride solution, dried over magnesium sulfate, filtered and concentrated in vacuo. The resulting solid was recrystallized from ethyl acetate-heptane to provide (2-cyano-4-fluorophenyl)boronic acid as a white solid. Yield: 2.20 g, 13.3 mmol, 44%. 1H NMR (400 MHz, CD3OD) δ 7.43 (ddd, J=8.6, 8.6, 2.5 Hz, 1H), 7.55 (dd, J=8.8, 2.5 Hz, 1H), 7.69 (br s, 1H).

reactant | 2-Bromo-5-fluorobenzonitrile | 30.0 mmol, 6.00 g | BrC1=C(C#N)C=C(C=C1)F | C7H3BrFN
reactant | triisopropyl borate | 36.0 mmol, 8.28 mL | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
reactant | n-butyllithium | C(CCC)[Li]
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | toluene | 48 mL | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | 12 mL | O1CCCC1 | C4H8O
product | (2-cyano-4-fluorophenyl)boronic acid | C(#N)C1=C(C=CC(=C1)F)B(O)O | C7H5BFNO2
